### PR TITLE
Add Erdős Problem 95 (second moment of distance multiplicities), link the formal proof

### LINKED ISSUE #6287: Erdős Problem 95
### What is the Erdős problem?

https://www.erdosproblems.com/95

Let $x_1,\ldots,x_n\in\mathbb{R}^2$ determine the set of distances $\{u_1,\ldots,u_t\}$. Suppose $u_i$ appears as the distance between $f(u_i)$ many pairs of points. Then for all $\epsilon>0$, $\sum_i f(u_i)^2 \ll_\epsilon n^{3+\epsilon}$.

Status: proved (Guth–Katz, with $\ll n^3 \log n$). Prize: \$500. A formal proof exists in plby/lean-proofs (`Erdos95.erdos_95`, Codex and GPT-5.6 Sol), via the Elekes–Sharir framework and polynomial partitioning. Related to #94.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-52

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6287.

### What changed
Adds `FormalConjectures/ErdosProblems/95.lean` with:
- `erdos_95` (`research solved`, `answer(True)`, $500): for every `ε > 0` there is `C` with `∑_u f(u)² ≤ C n^{3+ε}` for every `n`-point set in the plane, stated with the existing `distanceSet`/`distanceMultiplicity` exactly as in `94.lean` (Guth–Katz [GuKa15]). Linked to plby/lean-proofs `Erdos95.erdos_95` (Codex and GPT-5.6 Sol; 37 Mathlib-only files formalising the Elekes–Sharir reduction and Guth's ε-loss polynomial partitioning).
- `erdos_95.variants.guth_katz`: the sharp bound `≪ n³ log n`.

### How checked
- Rebuilt all of plby's files against this repo's Mathlib: `#print axioms Erdos95.erdos_95` → `[propext, Classical.choice, Quot.sound]`, no `native_decide`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby counts unordered `Sym2` pairs; the bridge shows the ordered-pair count used by `distanceMultiplicity` is exactly twice that):

<details>
<summary>Bridge</summary>

```lean
open Finset EuclideanGeometry

namespace Bridge95

/-- The ordered pairs of distinct points at distance `u` are exactly twice the unordered ones. -/
lemma card_offDiag_filter_eq_two_mul (P : Finset ℝ²) (u : ℝ) :
    (P.offDiag.filter fun pair : ℝ² × ℝ² => dist pair.1 pair.2 = u).card =
      2 * ((Erdos95Plby.pointPairs P).filter fun e => Erdos95Plby.pairDistance e = u).card := by
  classical
  set F := P.offDiag.filter fun pair : ℝ² × ℝ² => dist pair.1 pair.2 = u with hF
  have himage : F.image Sym2.mk.uncurry =
      (Erdos95Plby.pointPairs P).filter fun e => Erdos95Plby.pairDistance e = u := by
    unfold Erdos95Plby.pointPairs
    rw [Finset.filter_image]
    rfl
  have hswap : ∀ a ∈ F, a.swap ∈ F := by
    intro a ha
    rw [hF, Finset.mem_filter, Finset.mem_offDiag] at ha ⊢
    refine ⟨⟨ha.1.2.1, ha.1.1, Ne.symm ha.1.2.2⟩, ?_⟩
    rw [Prod.fst_swap, Prod.snd_swap, dist_comm]
    exact ha.2
  have hfiber : ∀ b ∈ F.image Sym2.mk.uncurry, (F.filter fun a => Sym2.mk.uncurry a = b).card = 2 := by
    intro b hb
    obtain ⟨⟨p, q⟩, hpq, rfl⟩ := Finset.mem_image.1 hb
    have hne : p ≠ q := (Finset.mem_offDiag.1 (Finset.mem_filter.1 hpq).1).2.2
    have : (F.filter fun a => Sym2.mk.uncurry a = Sym2.mk.uncurry (p, q)) = {(p, q), (q, p)} := by
      ext ⟨a, b⟩
      rw [Finset.mem_filter, Finset.mem_insert, Finset.mem_singleton]
      simp only [Function.uncurry_apply_pair, Sym2.eq_iff, Prod.mk.injEq]
      constructor
      · rintro ⟨-, h | h⟩
        · exact Or.inl h
        · exact Or.inr h
      · rintro (⟨rfl, rfl⟩ | ⟨rfl, rfl⟩)
        · exact ⟨hpq, Or.inl ⟨rfl, rfl⟩⟩
        · exact ⟨hswap _ hpq, Or.inr ⟨rfl, rfl⟩⟩
    rw [this, Finset.card_pair]
    intro h
    exact hne (Prod.mk.inj h).1
  rw [← himage, Finset.card_eq_sum_card_image Sym2.mk.uncurry F, Finset.sum_congr rfl hfiber,
    Finset.sum_const, smul_eq_mul, mul_comm]

lemma distanceMultiplicity_eq (P : Finset ℝ²) (u : ℝ) :
    distanceMultiplicity P u = Erdos95Plby.distanceMultiplicity P u := by
  unfold distanceMultiplicity Erdos95Plby.distanceMultiplicity
  rw [card_offDiag_filter_eq_two_mul]
  omega

lemma distanceSet_eq (P : Finset ℝ²) : distanceSet P = Erdos95Plby.distances P := by
  unfold distanceSet Erdos95Plby.distances Erdos95Plby.pointPairs
  rw [Finset.image_image]
  rfl

lemma energy_eq (P : Finset ℝ²) :
    ∑ u ∈ distanceSet P, (distanceMultiplicity P u : ℝ) ^ 2 = Erdos95Plby.distanceEnergy P := by
  unfold Erdos95Plby.distanceEnergy
  rw [distanceSet_eq]
  push_cast
  exact Finset.sum_congr rfl fun u _ => by rw [distanceMultiplicity_eq]

theorem erdos_95_bridge : type_of% Erdos95.erdos_95 := by
  show True ↔ _
  simp only [true_iff]
  intro ε hε
  obtain ⟨C, hC, h⟩ := Erdos95Plby.erdos_95 ε hε
  refine ⟨C, hC, fun P => ?_⟩
  rw [energy_eq]
  exact h P

end Bridge95
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«95»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/95.lean [hunk 1]
```diff
@@ -0,0 +1,71 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/95.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
